US08198269B2
(8) Synthesis of [(4aR,6R,8aS)-2-amino-8a-(2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-6-yl]methanol
Concentrated hydrochloric acid (25.2 ml) was added to (4aR,6R,8aS)-6-benzyloxymethyl-8a-(2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine (1.26 g), and the mixture was heated under reflux for two hours. After cooling the reaction solution to room temperature, the reaction mixture was poured into ice. The mixture was neutralized with 5 N sodium hydroxide, and the aqueous layer was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residual solid was washed with a mixed solvent of heptane and ether to obtain the title compound (890 mg).

reactant | hydrochloric acid | 25.2 ml | Cl | ClH
reactant | (4aR,6R,8aS)-6-benzyloxymethyl-8a-(2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine | 1.26 g | C(C1=CC=CC=C1)OC[C@H]1C[C@H]2CSC(=N[C@]2(CO1)C1=C(C=CC=C1)F)N | C21H23FN2O2S
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
product | [(4aR,6R,8aS)-2-amino-8a-(2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-6-yl]methanol | 890 mg | NC1=N[C@]2(CO[C@H](C[C@H]2CS1)CO)C1=C(C=CC=C1)F | C14H17FN2O2S
